US08003647B2
(5-Dimethylamino-2-nitro-4-trifluoromethylphenyl)acetonitrile
To a solution of dimethyl-(4-nitro-2-trifluoromethylphenyl)amine (0.95 g) in N,N-dimethylformamide (20 mL) were added (4-chlorophenoxy)acetonitrile (0.75 g) and 1 mol/L potassium tert-butoxide (4.5 mL, in tetrahydrofuran solution) under ice cooling, and this mixture was stirred at the same temperature for 1 hour. This reaction mixture was poured into water, and this mixture was extracted with ethyl acetate. This organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.11 g).

reactant | dimethyl-(4-nitro-2-trifluoromethylphenyl)amine | 0.95 g | CN(C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)C | C9H9F3N2O2
reactant | (4-chlorophenoxy)acetonitrile | 0.75 g | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
reactant | potassium tert-butoxide | 1 mol/L, 4.5 mL | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (5-Dimethylamino-2-nitro-4-trifluoromethylphenyl)acetonitrile | 0.11 g | CN(C=1C(=CC(=C(C1)CC#N)[N+](=O)[O-])C(F)(F)F)C | C11H10F3N3O2
